* D:\Projects\nixie-backplane\sims\combined.asc
XU1 0 N008 PWM 5V NC_01 N008 N007 5V NE555
R1 5V N007 1k
R2 N008 N009 50K
R3 N008 N010 50K
D1 N007 N009 D
D2 N010 N007 D
C1 N008 0 0.047µ
V1 5V 0 5V
R4 N002 N003 4.7K
R5 N003 N004 220K
R6 N004 N005 220K
R7 N001 0 200K
R8 N006 PWM 10K
Q1 N005 N006 0 0 NPN
Q2 N001 N003 N002 0 PNP
V3 N002 0 200V
.model D D
.lib C:\Users\Evan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Evan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 100ms
.lib NE555.sub
.backanno
.end
